US05635537
A mixture of 2-(dipropylamino)-8-[(trifluoromethylsulfonyl)-oxy]tetralin (455 mg, 1.2 mmol), tetramethylstannane (257 mg, 1.44 mmol), lithium chloride (158 mg, 3.7 mmol), dichloro[1,1'-bis(diphenylphosphino)ferocene]palladium(II) (PdCl2 (dppf); 61 mg, 0.07 mmol), molecular sieves (4 Å; 120 mg) and dimethylformamide (10 ml) was stirred under an atmosphere of carbon monoxide for 14 h at 90° C. The catalyst was filtered and the filtrate was partitioned between water and ether. The organic layer was dried (sodium sulfate) and concentrated in vacuo. The residue was purified by chromatography on an alumina column eluted with ether/light petroleum 1:16. Pure fractions were pooled and concentrated and the resulting oil was treated with ethereal hydrogen chloride to afford 158 mg (70%) of pure 8-acetyl-2-(dipropylamino)tetralin hydrochloride, which could be recrystallised from CHCl3 and diethylether. Mp 125°-127° C.

reactant | 2-(dipropylamino)-8-[(trifluoromethylsulfonyl)-oxy]tetralin | 1.2 mmol, 455 mg | C(CC)N(C1CC2=C(C=CC=C2CC1)OS(=O)(=O)C(F)(F)F)CCC | C17H24F3NO3S
reactant | tetramethylstannane | 1.44 mmol, 257 mg | C[Sn](C)(C)C
reactant | lithium chloride | 3.7 mmol, 158 mg | [Cl-].[Li+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 8-acetyl-2-(dipropylamino)tetralin hydrochloride | 158 mg, 70% | Cl.C(C)(=O)C=1C=CC=C2CCC(CC12)N(CCC)CCC | InChI=1S/C18H27NO.ClH/c1-4-11-19(12-5-2)16-10-9-15-7-6-8-17(14(3)20)18(15)13-16;/h6-8,16H,4-5,9-13H2,1-3H3;1H
